US06388084B1
To a solution of 2-methoxypropene (3.68 g, 51.03 mmol) and pyridine (1.35 g, 16.69 mmol) in dichloromethane (15 mL) was added a solution of trifluoroacetic anhydride (10 mL, 46.56 mmol) in dichloromethane (8 mL) at 0° C. over a period of 10-12 min. After addition, the solution turned to dark red-brown and then the cooling bath was removed and stirring was stopped. The mixture was allowed to stand for 16 h and was diluted with ice cold water (45 mL) and dichloromethane (120 mL). The two layers were separated and the organic layer was washed successively with 2N HCl (35 mL), saturated sodium carbonate solution (75 mL) and brine solution (25 mL) and was dried over anhydrous sodium sulfate. Filtration of the drying agent and concentration gave the crude product, which was purified by distillation under high vacuum to afford 5.546 g (65% yield) of 4-methoxy-1,1,1-trifluoropent-3-en-2-one as a light yellow oil.

reactant | 2-methoxypropene | 51.03 mmol, 3.68 g | COC(=C)C | C4H8O
reactant | pyridine | 16.69 mmol, 1.35 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 46.56 mmol, 10 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 4-methoxy-1,1,1-trifluoropent-3-en-2-one | 5.546 g, 65% yield | COC(=CC(C(F)(F)F)=O)C | C6H7F3O2
